US07294628B2
A′) tert-Butyl bis(2-chloroethyl)carbamate.
A mixture of 106 g of N,N-bis(2-chloroethyl)amine hydrochloride and 130 g of di-tert-butyl dicarbonate in 1 500 ml of DCM is admixed dropwise over 1 hour 30 minutes at AT with 83 ml of triethylamine, then left with stirring at AT overnight. The reaction mixture is washed with water and the organic phase is dried over Na2SO4 and evaporated under vacuum. This gives 150 g of the expected product, which is used as it is.

reactant | N,N-bis(2-chloroethyl)amine hydrochloride | 106 g | Cl.ClCCNCCCl
reactant | di-tert-butyl dicarbonate | 130 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 83 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl bis(2-chloroethyl)carbamate | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
